US09079866B2
6-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]-3H-imidazo[4,5-b]pyridine
The title compound was prepared in a manner similar to that described in Example 88 using 6-bromo-3H-imidazo[4,5-b]pyridine and 2-((3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-yl)oxy)pyrimidine. MS (ESI): mass calcd. for C22H14FN5O, 383.12; m/z found, 384.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.55-8.52 (m, 1H), 8.51-8.47 (d, J=4.9, 2H), 8.43 (s, 1H), 8.19-8.14 (t, J=1.7, 1H), 7.59-7.55 (dd, J=7.7, 1.8, 1H), 7.55-7.47 (m, 2H), 7.46-7.40 (m, 2H), 7.39-7.33 (dd, J=11.9, 1.7, 1H), 7.30-7.25 (dd, J=8.0, 1.2, 1H).

reactant | 6-bromo-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC=N2 | C6H4BrN3
reactant | 2-((3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-yl)oxy)pyrimidine | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C1=C(C=CC=C1)OC1=NC=CC=N1 | C22H22BFN2O3
product | 6-[3-Fluoro-2′-(pyrimidin-2-yloxy)biphenyl-4-yl]-3H-imidazo[4,5-b]pyridine | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=N2)C2=C(C=CC=C2)OC2=NC=CC=N2 | C22H14FN5O
